US07381728B2
Step 1: N-[5-Bromo-2-(methyloxy)phenyl]-4-iodobenzenesulfonamide
The title compound was prepared from 5-bromo-2-(methyloxy)aniline and 4-iodobenzenesulfonyl chloride using a similar method to that described for Examples 82-100 (E82-E100). MS (ES−) 466/468 [M−H]−.

reactant | 5-bromo-2-(methyloxy)aniline | BrC=1C=CC(=C(N)C1)OC | C7H8BrNO
reactant | 4-iodobenzenesulfonyl chloride | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
product | N-[5-Bromo-2-(methyloxy)phenyl]-4-iodobenzenesulfonamide | BrC=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)I)OC | C13H11BrINO3S
